### PR TITLE
Erdős Problem 263

### PR DESCRIPTION
**Pull request by cosmicgenius**
Fix https://github.com/google-deepmind/formal-conjectures/issues/459

### CODE REVIEW

File: FormalConjectures/ErdosProblems/263.lean [hunk 1]
```diff
@@ -0,0 +1,95 @@
...
+*Reference:* [erdosproblems.com/263](https://www.erdosproblems.com/263)
+-/
+
+open Filter
+open scoped Topology
+
+namespace Erdos263
+
+/--
+We call a sequence $a_n$ of positive integers an _irrationality sequence_
```
Comment (cosmicgenius) [inline FormalConjectures/ErdosProblems/263.lean:31]: Erdős and Graham in [ErGr80] don't explicitly rule out negative integers in their definition of an irrationality sequence, but Kovač and Tao [KoTa24] only consider positive integer sequences in their analysis. At least for the purposes of the two parts, the fact that the original statement allows for $a_n < 0$ seems unintended, so I left it out.

[ErGr80] Erdős, P. and Graham, R., Old and new problems and results in combinatorial number theory. Monographies de L'Enseignement Mathematique (1980). 
[KoTa24] Kovač, V. and Tao T., On several irrationality problems for Ahmes series. [arXiv:2406.17593](https://arxiv.org/abs/2406.17593) (2024).

File: FormalConjectures/ErdosProblems/263.lean [hunk 2]
```diff
@@ -0,0 +1,97 @@
...
+satisfy $a_n^{1/n} \to \infty$ as $n \to \infty$?
+-/
+@[category research open, AMS 11]
+theorem erdos_263.parts.ii (a : ℕ → ℕ):
+      (IsIrrationalitySequence a → atTop.Tendsto (fun n : ℕ => (a n : ℝ) ^ (1 / (n : ℝ))) atTop) ↔
+    answer(sorry) := by
+  sorry
+
+/--
+A folklore result states that any $a_n$ satisfying $\lim_{n \to \infty} a_n^{1/2ⁿ} = \infty$
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/263.lean]:
```suggestion
A folklore result states that any $a_n$ satisfying $\lim_{n \to \infty} a_n^{\frac{1}{2^n}} = \infty$
```

File: FormalConjectures/ErdosProblems/263.lean [hunk 3]
```diff
@@ -0,0 +1,97 @@
...
+  sorry
+
+/--
+Must every irrationality sequence $a_n$ in the above sense
+satisfy $a_n^{1/n} \to \infty$ as $n \to \infty$?
+-/
+@[category research open, AMS 11]
+theorem erdos_263.parts.ii (a : ℕ → ℕ):
+      (IsIrrationalitySequence a → atTop.Tendsto (fun n : ℕ => (a n : ℝ) ^ (1 / (n : ℝ))) atTop) ↔
+    answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/263.lean]: Here I think it's better to move the quantification by `a` into the parentheses (so that if one replaces `sorry` by `False` one get the negation "there exists an irrationality sequence `a` such that ..."

File: FormalConjectures/ErdosProblems/263.lean [hunk 4]
```diff
@@ -0,0 +1,97 @@
...
+  sorry
+
+/--
+A folklore result states that any $a_n$ satisfying $\lim_{n \to \infty} a_n^{1/2ⁿ} = \infty$
+has $\sum \frac{1}{a_n}$ converging to an irrational number.
+-/
+@[category research solved, AMS 11]
+theorem erdos_263.variants.folklore (a : ℕ -> ℕ):
+    atTop.Tendsto (fun n : ℕ => (a n : ℝ) ^ (1 / (2 ^ n : ℝ))) atTop →
+    (Irrational <| ∑' n, (1 : ℝ) / (a n : ℝ)) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/263.lean]:
```suggestion
/--
A folklore result states that any $a_n$ satisfying $\lim_{n \to \infty} a_n^{1/2ⁿ} = \infty$
has $\sum \frac{1}{a_n}$ converging to an irrational number.
-/
@[category research solved, AMS 11]
theorem erdos_263.variants.folklore (a : ℕ -> ℕ) 
    (ha : atTop.Tendsto (fun n : ℕ => (a n : ℝ) ^ (1 / (2 ^ n : ℝ))) atTop) : 
    Irrational <| ∑' n, (1 : ℝ) / (a n : ℝ) := by
```

File: FormalConjectures/ErdosProblems/263.lean [hunk 5]
```diff
@@ -0,0 +1,97 @@
...
+[KoTa24] Kovač, V. and Tao T., On several irrationality problems for Ahmes series.
+         arXiv:2406.17593 (2024).
+-/
+@[category research solved, AMS 11]
+theorem erdos_263.variants.sub_doubly_exponential (a: ℕ -> ℕ):
+    (StrictMono a ∧
+      Summable (fun n : ℕ => 1 / (a n : ℝ)) ∧
+      atTop.Tendsto (fun n : ℕ => (a (n + 1) : ℝ) / (a n) ^ 2) (𝓝 0)
+    ) → ¬ IsIrrationalitySequence a := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/263.lean:86]:
```suggestion
@[category research solved, AMS 11]
theorem erdos_263.variants.sub_doubly_exponential (a: ℕ -> ℕ) 
    (ha ' : StrictMono a)
    (ha'' : Summable (fun n : ℕ => 1 / (a n : ℝ)))
    (ha''' : atTop.Tendsto (fun n : ℕ => (a (n + 1) : ℝ) / (a n) ^ 2) (𝓝 0)) :
   ¬ IsIrrationalitySequence a := by
  sorry
```

File: FormalConjectures/ErdosProblems/263.lean [hunk 6]
```diff
@@ -0,0 +1,97 @@
...
+$\liminf \frac{a_{n+1}}{a_n^{2+\varepsilon}} > 0$, then $a_n$ is an irrationality sequence
+by the above folklore result.
+-/
+@[category research solved, AMS 11]
+theorem erdos_263.variants.super_doubly_exponential (a: ℕ -> ℕ):
+    (∀ n : ℕ, a n > 0) →
+      (∃ ε : ℝ, ε > 0 ∧
+      Filter.atTop.liminf (fun n : ℕ => (a (n + 1) : ℝ) / (a n) ^ (2 + ε)) > 0  →
+        IsIrrationalitySequence a) := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/263.lean:100]:
```suggestion
/--
On the other hand, if there exists some $\varepsilon > 0$ such that $a_n$ satisfies
$\liminf \frac{a_{n+1}}{a_n^{2+\varepsilon}} > 0$, then $a_n$ is an irrationality sequence
by the above folklore result.
-/
@[category research solved, AMS 11]
theorem erdos_263.variants.super_doubly_exponential (a: ℕ -> ℕ)
    (ha : ∀ n : ℕ, a n > 0)
    (ha' : ∃ ε : ℝ, ε > 0 ∧
      Filter.atTop.liminf (fun n : ℕ => (a (n + 1) : ℝ) / (a n) ^ (2 + ε)) > 0) : 
    IsIrrationalitySequence a) := by
  sorry
```

File: FormalConjectures/ErdosProblems/263.lean [hunk 7]
```diff
@@ -0,0 +1,97 @@
...
+    (StrictMono a ∧
+      Summable (fun n : ℕ => 1 / (a n : ℝ)) ∧
+      atTop.Tendsto (fun n : ℕ => (a (n + 1) : ℝ) / (a n) ^ 2) (𝓝 0)
+    ) → ¬ IsIrrationalitySequence a := by
+  sorry
+
+/--
+On the other hand, if there exists some $\varepsilon > 0$ such that $a_n$ satisfies
+$\liminf \frac{a_{n+1}}{a_n^{2+\varepsilon}} > 0$, then $a_n$ is an irrationality sequence
+by the above folklore result.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/263.lean]:
```suggestion
by the above folklore result `erdos_263.variants.folklore`.
```

File: FormalConjectures/ErdosProblems/263.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/263.lean:31]: Sounds reasonable!

Comment (smmercuri) [reply FormalConjectures/ErdosProblems/263.lean:31]: Note that `IsIrrationalitySequence` appears also in `264.lean`, although I think that has a different notion of "irrationality sequence". Could you please add a comment to this docstring referring to the other definition and that they are different notions, and if you could also update the docstring in `264.lean` to refer to this one that would be great!

Comment (cosmicgenius) [reply FormalConjectures/ErdosProblems/263.lean:31]: Done!

**Comment by cosmicgenius** [comment]
I've added an additional related result of Koizumi (as commented by Kovač in https://www.erdosproblems.com/forum/thread/263).

File: FormalConjectures/ErdosProblems/263.lean [hunk 8]
```diff
@@ -0,0 +1,112 @@
...
+an irrationality sequence in the above sense.
+
+[KoTa24] Kovač, V. and Tao T., On several irrationality problems for Ahmes series.
+         arXiv:2406.17593 (2024).
+-/
+@[category research solved, AMS 11]
+theorem erdos_263.variants.sub_doubly_exponential (a: ℕ -> ℕ)
+    (ha' : StrictMono a)
+    (ha'' : Summable (fun n : ℕ => 1 / (a n : ℝ)))
+    (ha''' : atTop.Tendsto (fun n : ℕ => (a (n + 1) : ℝ) / (a n) ^ 2) (𝓝 0)) :
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/263.lean]: You can remove a few brackets here and there
```suggestion
    (ha''' : atTop.Tendsto (fun n : ℕ => (a (n + 1) : ℝ) / a n ^ 2) (𝓝 0)) :
```

File: FormalConjectures/ErdosProblems/263.lean [hunk 9]
```diff
@@ -0,0 +1,112 @@
...
+On the other hand, if there exists some $\varepsilon > 0$ such that $a_n$ satisfies
+$\liminf \frac{a_{n+1}}{a_n^{2+\varepsilon}} > 0$, then $a_n$ is an irrationality sequence
+by the above folklore result `erdos_263.variants.folklore`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_263.variants.super_doubly_exponential (a: ℕ -> ℕ)
+    (ha : ∀ n : ℕ, a n > 0)
+    (ha' : ∃ ε : ℝ, ε > 0 ∧
+      Filter.atTop.liminf (fun n : ℕ => (a (n + 1) : ℝ) / (a n) ^ (2 + ε)) > 0) :
+    IsIrrationalitySequence a := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/263.lean:99]: You will need to also assume in this variant that `Summable (fun n : ℕ => 1 / (a n : ℝ))`. This is guaranteed by the hypothesis in `variants.folklore` but not in this one

Comment (cosmicgenius) [reply FormalConjectures/ErdosProblems/263.lean:99]: Oh, nice catch. Kovač and Tao have the restriction `StrictMono a` instead (in particular, their definition of irrationality sequence assumes this), which also prevents these trivial bounded sequences, so I've opted for that instead. Please do feel free to disagree if you think `Summable (fun n : ℕ => 1 / (a n : ℝ))` is better

File: FormalConjectures/ErdosProblems/263.lean [hunk 10]
```diff
@@ -0,0 +1,113 @@
...
+/--
+Koizumi [Ko25] showed that $a_n = \lfloor \alpha^{2^n} \rfloor$ is an irrationality sequence
+for all but countably many $\alpha > 1$.
+
+[Ko25] Koizumi, J., Irrationality of the reciprocal sum of doubly exponential sequences,
+       arXiv:2504.05933 (2025).
+-/
+@[category research solved, AMS 11]
+theorem erdos_263.variants.doubly_exponential_all_but_countable :
+    ∀ᶠ (α : ℝ) in Filter.cofinite, α > 1 → IsIrrationalitySequence (fun n : ℕ => ⌊α ^ 2 ^ n⌋₊) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/263.lean]:
```suggestion
for all but countably many $\alpha > 1$.

[Ko25] Koizumi, J., Irrationality of the reciprocal sum of doubly exponential sequences,
       arXiv:2504.05933 (2025).
-/
@[category research solved, AMS 11]
theorem erdos_263.variants.doubly_exponential_all_but_countable :
    ∀ᶠ (α : ℝ) in .cocountable, α > 1 → IsIrrationalitySequence (fun n : ℕ => ⌊α ^ 2 ^ n⌋₊) := by
```

File: FormalConjectures/ErdosProblems/263.lean [hunk 11]
```diff
@@ -0,0 +1,113 @@
...
+the sum $\sum \frac{1}{b_n}$ converges to an irrational number.
+
+Note: This is one of many possible notions of "irrationality sequences." See
+FormalConjectures/ErdosProblems/264.lean for another possible definition.
+-/
+def IsIrrationalitySequence (a : ℕ → ℕ) : Prop :=
+  (∀ n : ℕ, a n > 0) ∧
+    (∀ b : ℕ → ℕ, (∀ n : ℕ, b n > 0) ∧
+      atTop.Tendsto (fun n : ℕ => (a n : ℝ) / (b n : ℝ)) (𝓝 1) →
+      (Irrational <| ∑' n, 1 / (b n : ℝ)))
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/263.lean]:
```suggestion
      Irrational (∑' n, 1 / (b n : ℝ)))
```

File: FormalConjectures/ErdosProblems/263.lean [hunk 12]
```diff
@@ -0,0 +1,113 @@
...
+open scoped Topology
+
+namespace Erdos263
+
+/--
+We call a sequence $a_n$ of positive integers an _irrationality sequence_
+if for any sequence $b_n$ of positive integers with $\frac{a_n}{b_n} \to 1$ as $n \to \infty$,
+the sum $\sum \frac{1}{b_n}$ converges to an irrational number.
+
+Note: This is one of many possible notions of "irrationality sequences." See
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/263.lean]:
```suggestion
Note: This is one of many possible notions of "irrationality sequences". See
```

**Comment by mo271** [comment]
@YaelDillies and @cosmicgenius : is this good to go?

File: FormalConjectures/ErdosProblems/263.lean [hunk 13]
```diff
@@ -0,0 +1,113 @@
...
+  (∀ n : ℕ, a n > 0) ∧
+    (∀ b : ℕ → ℕ, (∀ n : ℕ, b n > 0) ∧
+      atTop.Tendsto (fun n : ℕ => (a n : ℝ) / (b n : ℝ)) (𝓝 1) →
+      Irrational (∑' n, 1 / (b n : ℝ)))
+
+/--
+Is $a_n = 2^{2^n}$ an irrationality sequence in the above sense?
+-/
+@[category research open, AMS 11]
+theorem erdos_263.parts.i : IsIrrationalitySequence (fun n : ℕ => 2 ^ 2 ^ n) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/263.lean]:
```suggestion
theorem erdos_263.parts.i : answer(sorry) ↔ IsIrrationalitySequence (fun n : ℕ => 2 ^ 2 ^ n) := by
```
and below
